US07820707B2
2-(2-(3-Tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
3-Tert-butyl-1H-pyrazole-4-carbaldehyde (150 mg, 0.986 mmol), 2-(2-bromoacetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (490 mg, 1.478 mmol) and potassium carbonate (545 mg, 3.94 mmol) were mixed with DMF (5 mL) and heated for 3 h at 60° C. The reaction was partitioned between water and EtOAc. Organics were combined and purified by chromatography (0-60%, EtOAc/heptane) to give the title product as a white solid (360 mg, 0.894 mmol, 91%).

reactant | 3-Tert-butyl-1H-pyrazole-4-carbaldehyde | 0.986 mmol, 150 mg | C(C)(C)(C)C1=NNC=C1C=O | C8H12N2O
reactant | 2-(2-bromoacetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 1.478 mmol, 490 mg | BrCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NC | C12H15BrN2O2S
reactant | potassium carbonate | 3.94 mmol, 545 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(2-(3-Tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.894 mmol, 360 mg, 91% | C(C)(C)(C)C1=NN(C=C1C=O)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NC | C20H26N4O3S
